US04163846
2-Methyl-3-bis(methanesulphonyl)amino-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (I)
Methanesulphonyl chloride (12.9 g) was added slowly to a stirred mixture of 3-amino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one (11 g) prepared as in Example 1, tetrahydrofuran (85 ml) and triethylamine (21 ml), causing the mixture to boil. The mixture was heated under reflux for 3 hours, and was then cooled and filtered. The filtrate was then evaporated to dryness, and the residue was washed with 80:20 ethanol/water to give the title compound, m.p. 258°-259° C.

reactant | Methanesulphonyl chloride | 12.9 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-amino-2-methyl-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | 11 g | NC=1N(N=C2N=C(NC(C21)=O)C(C)(C)C)C | C10H15N5O
reactant | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
product | 2-Methyl-3-bis(methanesulphonyl)amino-6-(1,1-dimethylethyl)-2,5-dihydropyrazolo[3,4-d]pyrimidin-4-one | CN1N=C2N=C(NC(C2=C1N(S(=O)(=O)C)S(=O)(=O)C)=O)C(C)(C)C | C12H19N5O5S2
